US07435850B2
Step A: Methyl cyano(7-methoxy-1-naphthyl)acetate
(7-Methoxy-naphth-1-yl)acetonitrile (20 g) is dissolved in 150 ml of anhydrous tetrahydrofuran. Sodium hydride (202.8 mmol) is added at ambient temperature, and the mixture is refluxed for 30 minutes. Dimethyl carbonate (12 ml) is added with caution, and the reaction mixture is refluxed for 30 minutes. The mixture is poured into ice-cold water, and the aqueous phase is acidified with 21 ml of 37% hydrochloric acid solution and then extracted twice with 100 ml of ether. The organic phase is washed with water, dried, decoloured and evaporated. The oil obtained is precipitated from ether, and the precipitate formed is filtered off under suction and then recrystallised to yield the title product in the form of a white solid.

reactant | (7-Methoxy-naphth-1-yl)acetonitrile | 20 g | COC1=CC=C2C=CC=C(C2=C1)CC#N | C13H11NO
reactant | Sodium hydride | 202.8 mmol | [H-].[Na+]
reactant | Dimethyl carbonate | 12 ml | C(OC)(OC)=O | C3H6O3
reactant | hydrochloric acid | 21 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Methyl cyano(7-methoxy-1-naphthyl)acetate | C(#N)C(C(=O)OC)C1=CC=CC2=CC=C(C=C12)OC | C15H13NO3
